US04159273
5-Hydroxy-4-oxo-10-propyl-6,7,8,9-tetrahydro-4H-naphtho[2,3-b]pyran-2-carboxylic acid
A suspension of 5-methoxy-4-oxo-10-propyl-6,7,8,9-tetrahydro-4H-naphtho[2,3-b]pyran-2-carboxylic acid (5 g) in 48% aqueous hydrobromic acid (130 ml) was heated under reflux for 7 hours. The reaction mixture was cooled and excess saturated aqueous sodium bicarbonate added. The resulting solution was filtered, the filtrate acidified with concentrated hydrochloric acid and then extracted with chloroform (100 ml). The chloroform solution was dried (Na2SO4) and evaporated leaving a residue which, when crystallised from acetone, gave the title compound as an orange crystalline solid mp 259°-260°.

reactant | 5-methoxy-4-oxo-10-propyl-6,7,8,9-tetrahydro-4H-naphtho[2,3-b]pyran-2-carboxylic acid | 5 g | COC1=C2CCCCC2=C(C=2OC(=CC(C21)=O)C(=O)O)CCC | C18H20O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrobromic acid | 130 ml | Br | BrH
product | 5-Hydroxy-4-oxo-10-propyl-6,7,8,9-tetrahydro-4H-naphtho[2,3-b]pyran-2-carboxylic acid | OC1=C2CCCCC2=C(C=2OC(=CC(C21)=O)C(=O)O)CCC | C17H18O5
